US04921858
2-Amino-4-chloro-7-(2-thienylmethyl)pyrrolo[2,3-d]pyrimidine
A suspension of 2-amino-4-chloro-6-[(2-thienylmethyl)amino]-5-(2,2-diethoxyethyl)pyrimidine (1.0 g, 2.80 mmol) in 65 ml of 0.3N HCl and ethanol (2.25:1) was stirred at 25° C. for 24 hours. The reaction mixture was neutralized with ammonium hydroxide solution and the product collected by filtration. TLC analysis showed that the reaction was not complete, so, the product was resuspended in 50 ml of 0.2N HCl and stirred for 48 hours. The reaction mixture was neutralized with NH4OH solution and concentrated. The residue was taken up in water and then evaporated to dryness to give yellow solid (573 mg) (77.3%). This was used in the next step without further purification.

reactant | 2-amino-4-chloro-6-[(2-thienylmethyl)amino]-5-(2,2-diethoxyethyl)pyrimidine | 2.80 mmol, 1.0 g | NC1=NC(=C(C(=N1)Cl)CC(OCC)OCC)NCC=1SC=CC1 | C15H21ClN4O2S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | HCl | 0.3N, 65 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-chloro-7-(2-thienylmethyl)pyrrolo[2,3-d]pyrimidine | 573 mg, 77.3% | NC=1N=C(C2=C(N1)N(C=C2)CC=2SC=CC2)Cl | C11H9ClN4S
